US05166170
2,2-Dimethyl-N-[2-(2,3-dihydro-1-methyl-1H-indol-2-yl)phenyl]propanamide
To a mixture of 9.40 g K2CO3 and 10.05 g 2,2-dimethyl-N-[2-(2,3-dihydro-1H-indol-2-yl)phenyl]propanamide in 125 ml DMF at 0° C., was added 3.64 ml iodomethane. The resulting mixture was stirred twenty-eight hours at room temperature. Upon dilution with water, a solid precipitated, which was collected and washed with water. Recrystallization from EtOH/water yielded 4.86 g solid, m.p. 133°-135° C.

reactant | K2CO3 | 9.40 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2,2-dimethyl-N-[2-(2,3-dihydro-1H-indol-2-yl)phenyl]propanamide | 10.05 g | CC(C(=O)NC1=C(C=CC=C1)C1NC2=CC=CC=C2C1)(C)C | C19H22N2O
reactant | iodomethane | 3.64 ml | IC | CH3I
solvent | DMF | 125 ml | CN(C)C=O | C3H7NO
product | 2,2-Dimethyl-N-[2-(2,3-dihydro-1-methyl-1H-indol-2-yl)phenyl]propanamide | 4.86 g | CC(C(=O)NC1=C(C=CC=C1)C1N(C2=CC=CC=C2C1)C)(C)C | C20H24N2O
